US09359359B2
To a solution of 7-(4-chlorobenzyl)-3-methyl-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-8-(3-(3-(trifluoromethoxy)phenoxy)propoxy)-1H-purine-2,6(3H,7H)-dione (50 mg, 0.09 mmol,) in ethanol (5 mL) was added acetyl chloride (0.2 mL) at 0° C. The mixture was stirred at room temperature for 1 h; then it was partitioned between ethyl acetate and water. The organic phase was separated and dried over sodium sulfate. This organic layer was then filtered and concentrated to give a crude product which was purified by preparative HPLC to give 7-(4-chlorobenzyl)-1-(2-hydroxyethyl)-3-methyl-8-(3-(3-(trifluoromethoxy)phenoxy)propoxy)1H-purine-2,6(3H,7H)-dione (20 mg, 39.2% yield) as a white solid. 1H-NMR (DMSO-d6) δ 7.40(t, 1H), 7.28-7.33(m, 4H), 6.92(dd, 2H), 6.85(s, 1H), 5.23(s, 2H), 4.76(t, 1H), 4.62(t, 2H), 4.08(t, 2H), 3.93(t, 2H), 3.49(q, 2H), 3.33(s, 3H), 2.18-2.24(m, 2H). LCMS retention time 3.058 min; LCMS MH+ 569.

reactant | 7-(4-chlorobenzyl)-3-methyl-1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-8-(3-(3-(trifluoromethoxy)phenoxy)propoxy)-1H-purine-2,6(3H,7H)-dione | 0.09 mmol, 50 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCOC2OCCCC2)=O)C)OCCCOC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C30H32ClF3N4O7
reactant | acetyl chloride | 0.2 mL | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 7-(4-chlorobenzyl)-1-(2-hydroxyethyl)-3-methyl-8-(3-(3-(trifluoromethoxy)phenoxy)propoxy)1H-purine-2,6(3H,7H)-dione | 20 mg, 39.2% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCO)=O)C)OCCCOC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C25H24ClF3N4O6
